US06316482B1
To a solution of 3-ethoxycarbonyl-1,2-phenylenediamine (790 mg) in tetrahydrofuran (10 ml) was added 1,1′-thiocarbonyldiimidazole (1.02 g) in ice water bath and the mixture was stirred for 20 hours at ambient temperature. The reaction solvent was concentrated in vacuo and the residue was washed with chloroform and collected by vacuum filtration to give ethyl 2-mercapto-1H-benzimidazole-4-carboxylate (665 mg).

reactant | 3-ethoxycarbonyl-1,2-phenylenediamine | 790 mg | C(C)OC(=O)C=1C(=C(C=CC1)N)N | C9H12N2O2
reactant | 1,1′-thiocarbonyldiimidazole | 1.02 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 2-mercapto-1H-benzimidazole-4-carboxylate | 665 mg | SC1=NC2=C(N1)C=CC=C2C(=O)OCC | C10H10N2O2S
